US06143763
To a solution of N-cyclohexyl-N-(2-hydroxybutyl)amine (49.2 g) in tetrahydrofuran (1 liter) is added with stirring sodium hydride (60% oily dispersion, 12.6 g) in portions at 0° C. The mixture is stirred at the same temperature for one hour, and thereto is added dropwise benzyl bromide (34 ml). The mixture is stirred at room temperature overnight, and the mixture is concentrated under reduced pressure to remove the solvent. To the residue is added water, and the mixture is extracted with chloroform. The extract is dried over anhydrous magnesium sulfate, concentrated under reduced pressure to remove the solvent, and the residue is purified by silica gel column chromatography (solvent; methylene chloride:methanol:aqueous ammonia=200:10:1) to give N-cyclohexyl-N-(2-benzyloxybutyl)amine (25.8 g) as a colorless oil.

reactant | N-cyclohexyl-N-(2-hydroxybutyl)amine | 49.2 g | C1(CCCCC1)NCC(CC)O | C10H21NO
reactant | sodium hydride | 12.6 g | [H-].[Na+]
reactant | benzyl bromide | 34 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | N-cyclohexyl-N-(2-benzyloxybutyl)amine | 25.8 g | C1(CCCCC1)NCC(CC)OCC1=CC=CC=C1 | C17H27NO
